US08877782B2
[6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-thiomorpholin-4-yl-methanone
As described for example 272, 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (97.6 mg, 0.3 mmol) was converted, using thiomorpholine instead of 4-aminotetrahydropyran, to the title compound (106 mg, 89%) which was obtained as a white solid. MS: m/e=397.1 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.3 mmol, 97.6 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=CC=C1)=O | C17H15N3O4
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | [6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-thiomorpholin-4-yl-methanone | 106 mg, 89% | CC1=C(C(=NO1)C1=NC=CC=C1)COC1=CC=C(C=N1)C(=O)N1CCSCC1 | C20H20N4O3S
